US04628057
(1S,3S)-1-Methyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid
To a mixture of (1S,3S)-1-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid (2.30 g), 10N NaOH (2 ml) and dimethylsulfoxide (6 ml) is added dropwise carbon disulfide (912 mg) and further added dropwise methyl iodide (1.7 g) at 0° C. The mixture is stirred at room temperature for one hour, and to the mixture is added water, and then extracted with ethyl acetate. The aqueous layer is acidified with 10% HCl and extracted with ethyl acetate. The extract is dried and distilled to remove the solvent. The residue is crystallized from chloroform to give the title compound (1.59 g, 50%) as colorless needles, m.p. 134°-137° C. (decomp.).

reactant | (1S,3S)-1-methyl-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 2.30 g | C[C@@H]1N[C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O | C13H14N2O2
reactant | NaOH | 10N, 2 ml | [OH-].[Na+]
reactant | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
reactant | methyl iodide | 1.7 g | CI | CH3I
reactant | carbon disulfide | 912 mg | C(=S)=S | CS2
solvent | water | O | H2O
product | (1S,3S)-1-Methyl-2-[(methylthio)thiocarbonyl]-1,2,3,4-tetrahydro-β-carboline-3-carboxylic acid | 1.59 g, 50% | C[C@@H]1N([C@@H](CC=2C3=CC=CC=C3NC12)C(=O)O)C(=S)SC | C15H16N2O2S2
